US05627197
1.3 g of 3-(4-cyanophenyl)-5-[4-(1,2-diethoxycarbonylethyl)piperazinomethyl)oxazolidin-2-one [obtainable by reaction of 4-cyanoaniline with 2,3-epoxypropan-1-ol to give N-[4-cyanophenyl]-2,3-dihydroxypropylamine, reaction with diethyl carbonate in the presence of K tert-butoxide to give 3-(4-cyano-phenyl)-5-hydroxymethyloxazolidin-2-one, subsequent esterification with methanesulfonyl chloride and reaction with "B"] and 1.1 g of hydroxylamine hydrochloride are boiled for 2 hours in 125 ml of ethanol in the presence of 2.24 g of sodium ethoxide. The reaction mixture is then filtered and concentrated in vacuo. The residue is dissolved in water, the solution is adjusted to pH 3 using 2N hydrochloric acid and the resulting precipitate is filtered off with suction. After recrystallizing from water/glacial acetic acid, 3-[4-amino(hydroxyimino)methylphenyl]-5-[4-(1,2-diethoxycarbonylethyl)piperazinomethyl]oxazolidin-2-one, m.p. 186°, is obtained.

reactant | 3-(4-cyanophenyl)-5-[4-(1,2-diethoxycarbonylethyl)piperazinomethyl)oxazolidin-2-one | 1.3 g | C(#N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCN(CC1)C(CC(=O)OCC)C(=O)OCC)=O | C23H30N4O6
reactant | 4-cyanoaniline | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | 2,3-epoxypropan-1-ol | O1C(CO)C1 | C3H6O2
reactant | N-[4-cyanophenyl]-2,3-dihydroxypropylamine | C(#N)C1=CC=C(C=C1)NCC(CO)O | C10H12N2O2
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | tert-butoxide | CC(C)([O-])C
product | 3-(4-cyano-phenyl)-5-hydroxymethyloxazolidin-2-one | C(#N)C1=CC=C(C=C1)N1C(OC(C1)CO)=O | C11H10N2O3
